US04710491
N-Tetradecyl-N-(2-amino-2-deoxy-D-glucopyranosyl)-stearic acid amide hydroacetate
3.1 g of 2-(benzyloxycarbonylamino)-2-deoxy-D-glucose were dissolved in 40 ml of dimethylformamide, 3.2 g of tetradecylamine were added and the mixture was warmed at 80° C. for 4 hours, under a water pump vacuum. The mixture was cooled to room temperature, diluted with 50 ml of tetrahydrofuran and stirred in the presence of 5 ml of ion exchanger SC 108 (H+ form). The exchanger resin was filtered off and 1 g of sodium carbonate and 3.3 g of stearoyl chloride were added to the filtrate. After the mixture had been stirred for five hours, the solid constituents were filtered off and the filtrate was evaporated in vacuo. The resulting syrup was purified by column chromatography on silica gel (eluting agent methylene chloride/methanol=20:1).

reactant | 2-(benzyloxycarbonylamino)-2-deoxy-D-glucose | 3.1 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C=O)[C@@H](O)[C@H](O)[C@H](O)CO | C14H19NO7
reactant | tetradecylamine | 3.2 g | C(CCCCCCCCCCCCC)N | C14H31N
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | N-Tetradecyl-N-(2-amino-2-deoxy-D-glucopyranosyl)-stearic acid amide | C(CCCCCCCCCCCCC)N(C(CCCCCCCCCCCCCCCCC)=O)C1[C@@H]([C@@H](O)[C@H](O)[C@H](O1)CO)N | C38H76N2O5
